US06288082B1
4-(3H-Benzotriazol-5-ylamino)-6,7,8-Trimethoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 150, 278.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile, 161.3 mg (1.2 mmol) of 5-aminobenzotriazole and 115.6 mg (1 mmol) of pyridine hydrochloride in 10 mL of 2-ethoxyethanol was refluxed for 10 min. The work up gave 246.3 mg (65.4%) of the product as a yellow solid, m.p. 205° C. (dec.), mass (electrospray, m/e): M+H 376.9. HRCIMS: calcd 376.128 for C19H16N6O3(M+), obsd 376.1264.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 278.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 5-aminobenzotriazole | 1.2 mmol, 161.3 mg | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(3H-Benzotriazol-5-ylamino)-6,7,8-Trimethoxy-quinoline-3-carbonitrile | N1=NNC2=C1C=CC(=C2)NC2=C(C=NC1=C(C(=C(C=C21)OC)OC)OC)C#N | C19H16N6O3
